US07601856B2
A mixture of 2-chloro-N-7,8,9,10-tetrahydro-6H-benzo[b]cyclohepta[d]furan-2-ylacetamide (0.13 g, 0.45 mmol), morpholine (0.049 mL, 0.56 mmol), and cesium carbonate (0.29 g, 0.90 mmol) in acetonitrile (5 mL) was stirred overnight at room temperature. The reaction mixture was concentrated and the crude material was purified using reverse-phase HPLC to provide 2-morpholin-4-yl-N-7,8,9,10-tetrahydro-6H-benzo[b]cyclohepta[d]furan-2-ylacetamide (0.085 g). MS (ESI) m/z 329 ([M+H]+).

reactant | 2-chloro-N-7,8,9,10-tetrahydro-6H-benzo[b]cyclohepta[d]furan-2-ylacetamide | 0.45 mmol, 0.13 g | ClCC(=O)NC1=CC2=C(OC3=C2CCCCC3)C=C1 | C15H16ClNO2
reactant | morpholine | 0.56 mmol, 0.049 mL | N1CCOCC1 | C4H9NO
reactant | cesium carbonate | 0.90 mmol, 0.29 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
product | 2-morpholin-4-yl-N-7,8,9,10-tetrahydro-6H-benzo[b]cyclohepta[d]furan-2-ylacetamide | 0.085 g | N1(CCOCC1)CC(=O)NC1=CC2=C(OC3=C2CCCCC3)C=C1 | C19H24N2O3
